US04255428
A mixture of 2-[2-(5-methyl-4-imidazolylmethylthio) ethylamino]-5-(4-methoxy-2-pyridylmethyl)-4-pyrimidone (0.97 g) and aqueous hydrobromic acid (48%, 20 ml) was boiled under reflux for 20 hours and evaporated to dryness. The residue was recrystallised from a mixture of ethanol and 2-propanol to give 2-]2-(5-methyl-4-imidazolylmethylthio) ethylamino]-5-(4-hydroxy-2-pyridylmethyl)-4-pyrimidone trihydrobromide, m.p. 167-169°. On recrystallisation from a mixture of ethanol and 2-propanol the melting point of the sample was lower owing to loss of hydrogen bromide.

reactant | 2-[2-(5-methyl-4-imidazolylmethylthio) ethylamino]-5-(4-methoxy-2-pyridylmethyl)-4-pyrimidone | 0.97 g | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=NC=CC(=C1)OC | C18H22N6O2S
reactant | hydrobromic acid | 20 ml | Br | BrH
product | 5-(4-hydroxy-2-pyridylmethyl)-4-pyrimidone trihydrobromide | Br.Br.Br.OC1=CC(=NC=C1)CC=1C(NC=NC1)=O | InChI=1S/C10H9N3O2.3BrH/c14-9-1-2-12-8(4-9)3-7-5-11-6-13-10(7)15;;;/h1-2,4-6H,3H2,(H,12,14)(H,11,13,15);3*1H
